US05556854
855 g of methyl 1-benzyl-4-oxopiperidine-3-carboxylate hydrochloride, 176 g of sodium carbonate and 450 ml of 25% aqueous ammonia solution in 6.5 1 of ethanol were heated for 5 h at an internal temperature of 70° C., with stirring. After concentration under reduced pressure, the mixture was worked up by extraction with dichloromethane and water. The combined dichloromethane phases were dried over sodium sulfate and concentrated under reduced pressure to give 788 g of oily methyl 4-amino-1-benzyl-1,2,5,6-tetrahydropyridine-3-carboxylate as a crude product, which was used in Example 1b) without further purification.

reactant | methyl 1-benzyl-4-oxopiperidine-3-carboxylate hydrochloride | 855 g | Cl.C(C1=CC=CC=C1)N1CC(C(CC1)=O)C(=O)OC
reactant | sodium carbonate | 176 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ammonia | 450 ml | N | H3N
solvent | ethanol | C(C)O | C2H6O
product | methyl 4-amino-1-benzyl-1,2,5,6-tetrahydropyridine-3-carboxylate | 788 g | NC1=C(CN(CC1)CC1=CC=CC=C1)C(=O)OC | C14H18N2O2
